US06599917B1
d) 3-[3-Benzyl-5-(N-phenylcarbamoyl)-2-pyridyl]ethynyl-3-quinuclidinol
150 mg of 3-benzyl-5-(N-phenylcarbamoyl)-2-pyridyl trifluoromethanesulfonate, 60 mg of 3-ethynyl-3-quinuclidinol, 50 mg of tetrakis (triphenylphosphine)palladium(0), 10 mg of cuprous iodide and 0.15 ml of triethylamine were added to 2 ml of N,N-dimethylformamide, followed by stirring for 3 hours in an oil bath kept at 50° C. After cooling as it was, aqueous ammonia was added thereto and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and evaporated. The residue was subjected to NH-silica gel column chromatography, to synthesize 90 mg of the target compound.

reactant | 3-benzyl-5-(N-phenylcarbamoyl)-2-pyridyl trifluoromethanesulfonate | 150 mg | FC(S(=O)(=O)OC1=NC=C(C=C1CC1=CC=CC=C1)C(NC1=CC=CC=C1)=O)(F)F | C20H15F3N2O4S
reactant | 3-ethynyl-3-quinuclidinol | 60 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-[3-Benzyl-5-(N-phenylcarbamoyl)-2-pyridyl]ethynyl-3-quinuclidinol | C(C1=CC=CC=C1)C=1C(=NC=C(C1)C(NC1=CC=CC=C1)=O)C#CC1(CN2CCC1CC2)O | C28H27N3O2
